US07259266B2
Step 1. Preparation of ethyl 8-methyl-7-phenoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To 0.304 g (1.00 mmol) of ethyl 7-fluoro-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate in 5.0 mL of DMF was added 0.194 g of K2CO3 (1.40 mmol) and 0.105 mL (1.20 mmol) of phenol. The mixture was heated to 90° C. and LC/MS indicated remaining starting material. The mixture was then heated to 110° C. overnight and LC/MS still indicated starting material remaining. Added an additional 0.194 g of K2CO3 (1.40 mmol) and 0.105 mL (1.20 mmol) of phenol. Heated overnight and purified by Gilson reverse phase chromatography to afford 0.107 g (28%) of a pale yellow solid: 1H NMR (CH30D/400 MHz) 1.32 (t, 3H, J=7.2 Hz), 2.15 (s, 3H), 4.24-4.33 (m, 2H), 5.82 (q, 1H, J=7.2 Hz), 6.42 (d, 1H, J=8.4 Hz), 6.94-6.97 (m, 2H), 7.09-7.15 (m, 2H), 7.33-7.37 (m, 2H), 7.75 (s, 1H); MS (ES+) 379.3 (M+H, 100); HRMS (EI+) m/z calcd for (C20H17F3O4) 378.1079, found 378.1062.

reactant | ethyl 7-fluoro-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.00 mmol, 0.304 g | FC1=CC=C2C=C(C(OC2=C1C)C(F)(F)F)C(=O)OCC | C14H12F4O3
reactant | K2CO3 | 1.40 mmol, 0.194 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenol | 1.20 mmol, 0.105 mL | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 1.40 mmol, 0.194 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenol | 1.20 mmol, 0.105 mL | C1(=CC=CC=C1)O | C6H6O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | ethyl 8-methyl-7-phenoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.107 g, 28% | CC=1C(=CC=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC1=CC=CC=C1 | C20H17F3O4
